US06482852B2
(e) 8-Cyclohexylmethoxy-(R)-5-hydroxy-2,3,4,5-tetrahydro-benzo[b]oxepine-7-carboxylic acid amide
To 8-cyclohexylmethoxy-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-7carboxylic acid amide (4.0 g, 13.3 mmol) suspended in CH2Cl2 (25 mL) at 42° C. was added (+)-DIP-Chloride (25 mL of CH2Cl2). The mixture was stirred at −12° C. for 18 h, concentrated, diluted with Et2O (200 mL) and treated with diethanolamine (5.1 mL, 53.1 mmol). After stirring for 2.5 h, the formed solids were filtered and washed with Et2O. The filtrate was concentrated, and the residue purified by silica gel column chomatography (5% MeOH/CH2Cl2) to a white solid (3.2 g, 80%). m.p. 164-165° C. Optical purity determined by Mosher Amide formation, 71% e.e.

reactant | 8-cyclohexylmethoxy-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-7carboxylic acid amide | 13.3 mmol, 4.0 g | C1(CCCCC1)COC=1C(=CC2=C(OCCCC2=O)C1)C(=O)N | C18H23NO4
reactant | (+)-DIP-Chloride | 25 mL | B([C@H]1C[C@@H]2C[C@H]([C@@H]1C)C2(C)C)([C@H]3C[C@@H]4C[C@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | diethanolamine | 53.1 mmol, 5.1 mL | N(CCO)CCO | C4H11NO2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 8-Cyclohexylmethoxy-(R)-5-hydroxy-2,3,4,5-tetrahydro-benzo[b]oxepine-7-carboxylic acid amide | C1(CCCCC1)COC=1C(=CC2=C(OCCC[C@H]2O)C1)C(=O)N | C18H25NO4
